US04560692
(a) 4-chloro-6-methylquinoline
This compound was made in a manner analogous to that of the synthesis of 4-chloro-6-fluoroquinoline described in Example 12. Starting from p-toluidine and diethyl ethoxymethylenemalonate the compound was obtained as a solid of mp 47°-51°.

reactant | 4-chloro-6-fluoroquinoline | ClC1=CC=NC2=CC=C(C=C12)F | C9H5ClFN
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 4-chloro-6-methylquinoline | ClC1=CC=NC2=CC=C(C=C12)C | C10H8ClN
